US05356918
N-(2-Nitrooxyethyl)-4-phenyl-2-oxooxazolidine-5-carboxamide (Compound No. 2-40)
Following a procedure similar to that described in Example 1, but using 112 mg of 2-oxo-4-phenyloxazolidine-5-carboxylic acid, 110 mg of N-(2-nitrooxyethyl)amine nitrate and 0.24 ml of diphenylphosphoryl azide, 12 mg of the title compound were obtained as colorless crystals, melting at 122°-124° C.

reactant | 2-oxo-4-phenyloxazolidine-5-carboxylic acid | 112 mg | O=C1OC(C(N1)C1=CC=CC=C1)C(=O)O | C10H9NO4
reactant | N-(2-nitrooxyethyl)amine nitrate | 110 mg | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
reactant | diphenylphosphoryl azide | 0.24 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
product | N-(2-Nitrooxyethyl)-4-phenyl-2-oxooxazolidine-5-carboxamide | 12 mg | [N+](=O)([O-])OCCNC(=O)C1C(NC(O1)=O)C1=CC=CC=C1 | C12H13N3O6
